US05958942
ii) Synthesis of 1,2-dihydro-1-[2-(1-(trifluoromethane-sulfonyl)piperidin-4-yl)ethan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
In 30 ml of acetonitrile was suspended 1.72 g (5.0 mM) of 1,2-dihydro-1-[2-(piperidin-4-yl)ethan-1-yl)-1,4,7b-triazacyclopent[cd]inden-2-one dihydrochloride, followed by addition of 1.5 ml (10.0 mM) of DBU and 1.4 ml (10.0 mM) of triethylamine. Then, 8.93 g (25.0 mM) of N-phenyltrifluoromethanesulfonimide was added and the mixture was stirred at room temperature for 16 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was extracted with 100 ml of chloroform. The organic layer was washed with 100 ml of saturated aqueous NaCl solution and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=10:1) to provide 1.54 g (yield 76.3%) of the title compound as white solid. Recrystallization of the solid (1.54 g) from 10 ml of ethanol gave 1.23 g (recovery rate 80.0%) of prisms.

reactant | 1,2-dihydro-1-[2-(piperidin-4-yl)ethan-1-yl)-1,4,7b-triazacyclopent[cd]inden-2-one dihydrochloride | 5.0 mM, 1.72 g | Cl.Cl.N1CCC(CC1)CCN1C(C=2N3C(C=CC=C13)=NC2)=O
reactant | DBU | 10.0 mM, 1.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 10.0 mM, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 25.0 mM, 8.93 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1,2-dihydro-1-[2-(1-(trifluoromethane-sulfonyl)piperidin-4-yl)ethan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 1.54 g, yield 76.3% | FC(S(=O)(=O)N1CCC(CC1)CCN1C(C=2N3C(C=CC=C13)=NC2)=O)(F)F | C16H17F3N4O3S
